US07820692B2
α-cyano-β-(3,4-dimethoxyphenyl)-ethyl acrylate (VIII-b-2)
Add 3,4-dimethoxy benzaldehyde 26 g (0.16 mol), ethyl cyanoacetate 18 g (0.16 mol), piperidine 0.8 ml, acetic acid 2.4 g, and benzene 60 ml into 250 ml eggplant-shaped flask, increase temperature to 120-130° C. for intensive reflux, separate water with water separator, react for 12 h. Vacuum evaporate to remove benzene, pour ice water into the reaction solution to precipitate yellow solid, filter and dry to obtain pale yellow crystal VIII-b-2 41 g, with yield almost reaching theoretical value and m.p. 154-156° C. (reference value 156° C.).

reactant | 3,4-dimethoxy benzaldehyde | 0.16 mol, 26 g | COC=1C=C(C=O)C=CC1OC | C9H10O3
reactant | ethyl cyanoacetate | 0.16 mol, 18 g | C(#N)CC(=O)OCC | C5H7NO2
reactant | piperidine | 0.8 ml | N1CCCCC1 | C5H11N
reactant | acetic acid | 2.4 g | C(C)(=O)O | C2H4O2
solvent | benzene | 60 ml | C1=CC=CC=C1 | C6H6
product | α-cyano-β-(3,4-dimethoxyphenyl)-ethyl acrylate | C(C=C)(=O)OC(CC1=CC(=C(C=C1)OC)OC)C#N | C14H15NO4
